US08623889B2
A screw-top vial was charged with 1-(5-amino-2-chloropyridin-4-yl)ethanol (46.3 mg, 0.268 mmol), 5′-fluoro-2′-methylacetophenone (82.0 mg, 0.540 mmol), tris(triphenylphosphine)ruthenium(II) dichloride (13.0 mg, 0.013 mmol), potassium hydroxide (15 mg, 0.27 mmol), and 1,4-dioxane (1.5 mL, 19 mmol). The reaction vial was flushed with nitrogen gas, sealed with a teflon lined cap, and heated at 80° C. for 2 hours. The reaction mixture was then diluted in ethyl acetate, filtered through celite, washed with water and brine, dried over MgSO4, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-100% ethyl acetate in heptane) to yield 27.9 mg (36%) of 6-chloro-2-(5-fluoro-2-methylphenyl)-4-methyl-1,7-naphthyridine. LCMS (ESI): M+H=287.2; 1H NMR (400 MHz, DMSO) δ 9.27 (s, 1H), 8.20 (s, 1H), 7.91 (s, 1H), 7.41 (m, 2H), 7.26 (m, 1H), 2.75 (s, 3H), 2.37 (s, 3H).

reactant | 1-(5-amino-2-chloropyridin-4-yl)ethanol | 0.268 mmol, 46.3 mg | NC=1C(=CC(=NC1)Cl)C(C)O | C7H9ClN2O
reactant | 5′-fluoro-2′-methylacetophenone | 0.540 mmol, 82.0 mg | FC=1C=CC(=C(C1)C(C)=O)C | C9H9FO
reactant | potassium hydroxide | 0.27 mmol, 15 mg | [OH-].[K+]
reactant | 1,4-dioxane | 19 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | tris(triphenylphosphine)ruthenium(II) dichloride | 0.013 mmol, 13.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru]Cl
product | 6-chloro-2-(5-fluoro-2-methylphenyl)-4-methyl-1,7-naphthyridine | 27.9 mg, 36% | ClC=1C=C2C(=CC(=NC2=CN1)C1=C(C=CC(=C1)F)C)C | C16H12ClFN2
